US08754107B2
To a suspension of 4-phenylpiperidine (2.12 g, 13.1 mmol) and 3-oxo-pyrrolidine-1-carboxylic acid tert-butyl ester (2.43 g, 13.1 mmol) in MeOH (60 mL) was added NaBH(OAc)3 (8.32 g, 39.3 mmol) and the reaction mixture was stirred at ambient temperature for about 16 h. The reaction mixture was concentrated in vacuo. The residue was dissolved in DCM (50 mL) and stirred with saturated aqueous NaHCO3 (50 mL) for about 1 h. The organic portion was separated, dried over MgSO4, filtered, and concentrated in vacuo to give 3-(4-phenyl-piperidin-1-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester (4.3 g,) as a yellow oil which was used in subsequent reactions without further purification. RP-HPLC (Table 1, Method d) Rt 2.73 min; m/z: (M+H)+ 331.

reactant | 4-phenylpiperidine | 13.1 mmol, 2.12 g | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
reactant | 3-oxo-pyrrolidine-1-carboxylic acid tert-butyl ester | 13.1 mmol, 2.43 g | C(C)(C)(C)OC(=O)N1CC(CC1)=O | C9H15NO3
reactant | NaBH(OAc)3 | 39.3 mmol, 8.32 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | MeOH | 60 mL | CO | CH4O
product | 3-(4-phenyl-piperidin-1-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 4.3 g | C(C)(C)(C)OC(=O)N1CC(CC1)N1CCC(CC1)C1=CC=CC=C1 | C20H30N2O2
